US06333324B1
To a mixture of 4-(2-thienyl)phenol (1.00 g) and acetic anhydride (869 mg) in tetrahydrofuran (10 ml) was added pyridine (494 mg) with ice-cooling. The mixture was stirred for 1 hour at said temperature and 1 hour at ambient temperature. After concentration, the mixture was partitioned between AcOEt and H2O. The separated organic layer was washed with 1% aqueous citric acid, 3% aqueous NaHCO3 solution and brine, dried over sodium sulfate and concentrated. The residue was triturated with hexane to give 985 mg of 2-(4-acetoxyphenyl)thiophene as a powder.

reactant | 4-(2-thienyl)phenol | 1.00 g | S1C(=CC=C1)C1=CC=C(C=C1)O | C10H8OS
reactant | acetic anhydride | 869 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 494 mg | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(4-acetoxyphenyl)thiophene | 985 mg | C(C)(=O)OC1=CC=C(C=C1)C=1SC=CC1 | C12H10O2S
